US08383644B2
(S)-2-{[(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
(S)-2-({(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (35 mg) was dissolved in 2 mL DCM. In a separate vial EDC (5 equiv) and 2,5-dimethyl-oxazole-4-carboxylic acid (10 equiv) were dissolved in DCM and stirred 40 min. This solution was added to the above mixture stirred 4 hours. The reaction mixture was directly purified over silica (hexanes to 1:1 hexanes EtOAc to 1:1 hexanes EtOAc+2% MeOH). The resulting compound was hydrolyzed according to General Procedures B to give the title compound (10 mg). LCMS (m/z): 862.

reactant | (S)-2-({(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 35 mg | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H39Cl2N3O6
reactant | EDC | 5 equiv
reactant | 2,5-dimethyl-oxazole-4-carboxylic acid | 10 equiv | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3R,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 10 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@H]2OC=3C(=CC=4C[C@H](N(CC4C3)C(=O)C=3N=C(OC3C)C)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C47H42Cl2N4O8
